US03987047
1,2-Dihydro-11-methyl-3H-azepino[4,5-b]quinoline
A mixture of 3 gm (5.42 millimols) of 5-chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester, 45 millimols of sodium ethoxide and 150 ml of ethanol was boiled for 2 hours. After distilling off the ethanol, the residue was dissolved in water, the solution was extracted with chloroform, the extract was dried with sodium sulfate, the solvent was evaporated, and the residue was recrystallized from ether.

reactant | 5-chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | 5.42 millimols, 3 gm | C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)Cl | C17H19ClN2O2
reactant | sodium ethoxide | 45 millimols | [O-]CC.[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1,2-Dihydro-11-methyl-3H-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)C=CNCC2 | C14H14N2
